US07015348B2
To a solution of 200.00 g (1.041 mol) of ethyl benzoylacetate in 2,000 ml of methanol, 328.10 g (5.203 mol) of ammonium formate was added, and the resulting mixture was heated under reflux for 14 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and the solvent was evaporated off under reduced pressure. To the residue, 500 ml of ethyl acetate and 400 ml of water were added, and the mixture was stirred at room temperature for 30 minutes. Then, the organic layer was separated, and the aqueous layer was extracted with 500 ml of ethyl acetate. The organic layers were combined, washed twice with each 400 ml of water and once with 400 ml of a brine successively and dried with sodium sulfate. The solvent was removed under reduced pressure, and the residue was then distilled to give the objective ethyl 3-amino-3-phenylacrylate (190.20 g, a colorless oil). The yield was 95.1%.

reactant | ethyl benzoylacetate | 1.041 mol, 200.00 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | ammonium formate | 5.203 mol, 328.10 g | C(=O)[O-].[NH4+]
solvent | methanol | 2,000 ml | CO | CH4O
product | ethyl 3-amino-3-phenylacrylate | yield was 95.1% | NC(=CC(=O)OCC)C1=CC=CC=C1 | C11H13NO2
